* gnetlist -g spice-sdb -o BJT.net BJT.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ./BC547B.lib vvvvvvvv
.model bc547b NPN 
+BF=500 NE=1.3 ISE=9.72F IKF=80M IS=20F VAF=50 ikr=12m
+BR=10 NC=2 VAR=10 RB=280 RE=1 RC=40 VJE=.48 tr=.3u tf=.5n
+cje=12p vje=.48 mje=.5 cjc=6p vjc=.7 mjc=.33 isc=47p kf=2f
*^^^^^^^^  End of included SPICE model from ./BC547B.lib ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
V1 4 0 DC 10V
V2 7 0 dc 0 ac 10m
C3 7 1 10u  
C2 2 6 10u  
R5 6 0 500  
R4 2 4 10k  
C1 0 3 100u  
R3 0 3 220  
R2 0 5 47k  
R1 5 4 47k  
Q1 2 1 3 bc547b 
.end
